US04001419
To a solution of 1'-methylxanthene-9-spiro-4'-piperidine (1.3 g.) in hexane (25 ml.) in an argon atmosphere is added a 1.6 molar solution of t-butyl lithium in pentane (3.5 ml.) with stirring at room temperature. The mixture is stirred for 1 hour at room temperature. Hydroxylamine methyl ether (0.4 g.) in hexane (5 ml.) is added dropwise during 5 minutes. Water is added and the organic layer separated, washed with water and dried with MgSO4. The solvent is evaporated to give a solid residue, which is recrystallised from hexane to give 1'-methyl-4-aminoxanthene-9-spiro-4'-piperidine, m.p. 173°-174° C. The above process is repeated using an equivalent amount of sulphur and paraformaldehyde as starting material in place of hydroxylamine methyl ether. The following compounds are thus prepared:

reactant | 1'-methylxanthene-9-spiro-4'-piperidine | 1.3 g | CN1CCC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12 | C18H19NO
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | Hydroxylamine methyl ether | 0.4 g | CON | CH5NO
reactant | Water | O | H2O
solvent | hexane | 25 ml | CCCCCC | C6H14
solvent | pentane | 3.5 ml | CCCCC | C5H12
solvent | hexane | 5 ml | CCCCCC | C6H14
product | 1'-methyl-4-aminoxanthene-9-spiro-4'-piperidine | CN1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)N | C18H20N2O
